US07884207B2
A mixture of 4-[(4-amino-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride (0.80 g) and 1N sodium hydroxide (8 mL) was sonicated for 2 minutes. A solid was isolated by filtration, washed with water, and dried under high vacuum at 100° C. to provide 0.50 g of 4-[(4-amino-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol as a yellow powder, mp>260.0° C. Anal. Calcd for C16H20N6O C, 61.52; H, 6.45; N, 26.90. Found: C, 61.23; H, 6.39; N, 26.92.

reactant | 4-[(4-amino-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride | 0.80 g | Cl.Cl.NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)C
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
product | 4-[(4-amino-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol | 0.50 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)C | C16H20N6O
